US04968804
EXAMPLE 1: 2,2'-diamidino-4,4'-bipyridine dihydrochloride
0.028 g (0.0012 g-atom) of sodium is dissolved under nitrogen in 15 ml of absolute methanol. 2.5 g (0.0124 mol) of 2,2'-dicyano-4,4'-bipyridine [Experientia 30. 843 (1974)] are added to this solution and the resulting mixture is stirred for 2 days at room temperature. After the addition of 1.53 g (0.0286 mol) of ammonium chloride, 10 ml of absolute methanol and 20 ml of saturated ethanolic ammonia solution, the reaction mixture is heated for 1 hour at approximately 70° and then left to stand overnight at room temperature. The suspension is concentrated by evaporation, dissolved in water and washed with methylene chloride. The aqueous phase is concentrated to dryness by evaporation and the residue is recrystallised twice from dilute hydrochloric acid. The monohydrate of the title compound is obtained, m.p. >280°.

reactant | sodium | 0.028 g | [Na] | Na
reactant | 2,2'-dicyano-4,4'-bipyridine | 0.0124 mol, 2.5 g | C(#N)C1=NC=CC(=C1)C1=CC(=NC=C1)C#N | C12H6N4
reactant | ammonium chloride | 0.0286 mol, 1.53 g | [Cl-].[NH4+]
reactant | ammonia | 20 ml | N | H3N
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2,2'-diamidino-4,4'-bipyridine dihydrochloride | Cl.Cl.C(N)(=N)C1=NC=CC(=C1)C1=CC(=NC=C1)C(N)=N | InChI=1S/C12H12N6.2ClH/c13-11(14)9-5-7(1-3-17-9)8-2-4-18-10(6-8)12(15)16;;/h1-6H,(H3,13,14)(H3,15,16);2*1H
